US08664257B2
Step 1: Methyl 1-(2-fluoro-phenyl)-5-isopropoxy-1H-pyrazole-3-carboxylate
150 mg (0.635 mmol) of 1-(2-fluoro-phenyl)-5-hydroxy-1H-pyrazole-3-carboxylic acid methyl ester, 166.6 mg (0.635 mmol) of triphenylphosphine and 38.16 mg (0.635 mmol) of 2-propanol were dissolved in 1.5 ml of DCM, and then a solution of 0.635 mmol of di(4-chlorobenzyl) azodicarboxylate in 1.5 ml of DCM was added. After stirring at room temperature for 4 h, the mixture was filtered and the solvent removed in vacuo. The obtained crude title compound was used in the hydrolysis step without further purification.

reactant | 1-(2-fluoro-phenyl)-5-hydroxy-1H-pyrazole-3-carboxylic acid methyl ester | 0.635 mmol, 150 mg | COC(=O)C1=NN(C(=C1)O)C1=C(C=CC=C1)F | C11H9FN2O3
reactant | triphenylphosphine | 0.635 mmol, 166.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-propanol | 0.635 mmol, 38.16 mg | CC(C)O | C3H8O
reactant | di(4-chlorobenzyl) azodicarboxylate | 0.635 mmol | N(=NC(=O)OCC1=CC=C(C=C1)Cl)C(=O)OCC1=CC=C(C=C1)Cl | C16H12Cl2N2O4
solvent | DCM | 1.5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 1.5 ml | C(Cl)Cl | CH2Cl2
product | Methyl 1-(2-fluoro-phenyl)-5-isopropoxy-1H-pyrazole-3-carboxylate | FC1=C(C=CC=C1)N1N=C(C=C1OC(C)C)C(=O)OC | C14H15FN2O3
